US05661155
A solution of diethyl (S)-2-(5-(((1,2-dihydro-3-methyl-1-oxo-benzo[f]quinazolin-9-yl)methyl)amino)-1-oxo-2-isoindolinyl)glutarate (3.20 g, 5.75 mmol) in 0.2N NaOH (140 ml) was stirred under nitrogen for 3 hours at room temperature. The solution was then slowly adjusted to pH 3 with 1N HCl and the resulting suspension allowed to stir briefly. The white solid was filtered under nitrogen, washed with water, and dried under high vacuum to give (S)-2-(5-(((1,2-dihydro-3-methyl-1-oxobenzo[f]quinazolin-9-yl)methyl)amino)-1-oxo-2-isoindolinyl)glutaric acid (2.85 g). 1H NMR (DMSO-d6 /D2O, 300 MHz) δ: 1.86-2.34 (m, 4H, glu CH2CH2), 2.44 (s, 3H, CH3), 4.25 (very strongly coupled AB pair, 2H, glu NCH2Ar), 4.58 (s, 2H, C9 -CN2), 4.67-4.75 (m, 1H, glu CH), 6.69-6.77 (m, 2H, Ar), 7.37 (d, J=8 Hz, 1H, Ar), 7.59 (d, J=9 H, 1H, Ar), 7.64 (dd, J=8,2 Hz, 1H, Ar), 8.01 (d, J=8 Hz, 1H, Ar), 8.22 (d, J=9 Hz, 1H, Ar), 9.85 (s, 1H, Ar). Anal. Calculated for C27H24N4O6.1.6H2O: C, 61.27; H, 5.18; N, 10.58. Found: C, 61.29; H, 5.18; N, 10.57.

reactant | diethyl (S)-2-(5-(((1,2-dihydro-3-methyl-1-oxo-benzo[f]quinazolin-9-yl)methyl)amino)-1-oxo-2-isoindolinyl)glutarate | 5.75 mmol, 3.20 g | CC1=NC=2C=CC3=C(C2C(N1)=O)C=C(C=C3)CNC=3C=C1CN(C(C1=CC3)=O)[C@H](C(=O)OCC)CCC(=O)OCC | C31H32N4O6
reactant | HCl | 1N | Cl | ClH
solvent | NaOH | 0.2N, 140 ml | [OH-].[Na+]
product | (S)-2-(5-(((1,2-dihydro-3-methyl-1-oxobenzo[f]quinazolin-9-yl)methyl)amino)-1-oxo-2-isoindolinyl)glutaric acid | 2.85 g | CC1=NC=2C=CC3=C(C2C(N1)=O)C=C(C=C3)CNC=3C=C1CN(C(C1=CC3)=O)[C@H](C(=O)O)CCC(=O)O | C27H24N4O6
